* Example of Subcircuit usage
* Filename: sub_example.sub

.subckt amplifier Vin Vout Vgnd
R1 Vin Vgnd 100K
G1 Vx Vgnd Vin Vgnd 0.002
R2 Vx Vgnd 10K
C1 Vx Vgnd 0.001u
E1 Vy Vgnd Vx Vgnd 0.98
R3 Vy Vout 10
.ends amplifier

